US09403773B2
1-(5-Bromo-2-cyclopentyloxyphenyl)ethanone (5.0 g, 17.65 mmol) was dissolved in a mixed solvent of chloroform (18 ml) and methanol (70 ml). Hydroxylamine hydrochloride (1.88 g, 27.0 mmol) and pyridine (4.36 ml, 54.1 mmol) were added to the resulting solution, and the mixture was stirred for 6 hours while heating under reflux. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. 2N Hydrochloric acid (13.9 ml) was added to the residue, and the resulting mixture was extracted with dichloromethane. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and concentrated to dryness under reduced pressure. The residue was washed with n-hexane and dried to thereby obtain 4.6 g of powdery white 1-(5-bromo-2-cyclopentyloxyphenyl)ethanone oxime (yield: 87%).

reactant | 1-(5-Bromo-2-cyclopentyloxyphenyl)ethanone | 17.65 mmol, 5.0 g | BrC=1C=CC(=C(C1)C(C)=O)OC1CCCC1 | C13H15BrO2
reactant | Hydroxylamine hydrochloride | 27.0 mmol, 1.88 g | Cl.NO
reactant | pyridine | 54.1 mmol, 4.36 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 18 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 70 ml | CO | CH4O
product | 1-(5-bromo-2-cyclopentyloxyphenyl)ethanone oxime | 4.6 g, yield: 87% | BrC=1C=CC(=C(C1)C(C)=NO)OC1CCCC1 | C13H16BrNO2
